US04970207
A mixture of (3RS)-1-[2-(2-chloroethoxy)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one (500 mg) and 1-methylpiperazine (5.0 ml) was stirred at 70° C. for 5.0 hours. Then diisopropyl ether (30 ml) was added to the reaction mixture. After the resultant precipitate was filtered off, the filtrate was evaporated. The residue was washed with water and dried to give (3RS)-1-[2-[2-(4-methyl-1-piperazinyl)ethoxy]ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-2H-1,4-benzodiazepine-2-one (0.43 g).

reactant | (3RS)-1-[2-(2-chloroethoxy)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 500 mg | ClCCOCCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C28H25ClN4O3
reactant | 1-methylpiperazine | 5.0 ml | CN1CCNCC1 | C5H12N2
solvent | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
product | (3RS)-1-[2-[2-(4-methyl-1-piperazinyl)ethoxy]ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-2H-1,4-benzodiazepine-2-one | 0.43 g | CN1CCN(CC1)CCOCCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C33H36N6O3
